US05527972
Sodium t-butoxide (1.39 g of a 42% solution in dry dimethyl formamide was added dropwise over a period of 5 minutes to a stirred mixture of 1-bromo-1-chloro-2,2,2-trifluoroethane (0.535 ml), 3-methylbut-1-en-1-al (0.538 ml) and dry tetrahydrofuran (10 ml) maintained at a temperature of -78° C. by external cooling under a nitrogen atmosphere. The mixture was then stirred for a further 40 minutes at the temperature after which the external cooling was removed and the reaction quenched by the dropwise addition of saturated aqueous ammonium chloride solution. The mixture was then partitioned between water and diisopropyl ether and the aqueous phase separated, washed with diisopropyl ether (3×25ml), and the washings combined with the organic phase. The organic phase was washed with brine and dried over anhydrous sodium sulphate and concentrated by evaporation under reduced pressure. After purification by a procedure similar to that set out in the previous Example there was obtained 5-bromo-5-chloro-4-hydroxy-2-methyl-6,6,6-trifluorohex-2-ene (1.39 g), identified by nuclear magnetic resonance and infra-red spectroscopy.

reactant | Sodium t-butoxide | CC(C)([O-])C.[Na+]
reactant | 1-bromo-1-chloro-2,2,2-trifluoroethane | 0.535 ml | BrC(C(F)(F)F)Cl | C2HBrClF3
reactant | 3-methylbut-1-en-1-al | 0.538 ml | CC(C=C=O)C | C5H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 5-bromo-5-chloro-4-hydroxy-2-methyl-6,6,6-trifluorohex-2-ene | 1.39 g | BrC(C(C=C(C)C)O)(C(F)(F)F)Cl | C7H9BrClF3O
